US06518257B1
(i) Production of 2-methyl-1-(2′-methyl[1,1′-biphenyl]-3-yl)-1-(1-trityl-1H-imidazol-4-yl)-1-propanol
By the reaction in the same manner as in Example 1-(i) using o-tolylboronic acid (0.69 g) and 1-(3-bromophenyl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (1.01 g), the amorphous title compound (0.61 g) was obtained.

reactant | o-tolylboronic acid | 0.69 g | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
reactant | 1-(3-bromophenyl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 1.01 g | BrC=1C=C(C=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H29BrN2O
product | 2-methyl-1-(2′-methyl[1,1′-biphenyl]-3-yl)-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 0.61 g | CC(C(O)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)C1=C(C=CC=C1)C)C | C39H36N2O
